US06107301
2-Chloro-4-(N-butyl-N-ethylamino)-6-methyl-3-nitropyridine
2,4-Dichloro-6-methyl-3-nitropyridine (1 g, 4.83 mmol), N-ethylbutylamine (0.75 mL, 5.55 mmol), and N,N-diisopropylethylamine (1 mL, 6 mmol) were stirred at 25° C. for 24 h and at reflux for 5 h. Then the mixture was stripped in vacuo and the residue was partitioned between EtOAc (75 mL), and water (50 mL). The organic layer was washed with water (30 mL), brine (30 mL), dried (MgSO4) and stripped in vacuo. The residue was chromatographed on silica gel (10%) EtOAc/hexanes eluent) to give the two regiomers 270 mg and 840 mg. The major regioisomer was characterized as the 4-adduct by nOe NMR experiments. minor: NMR (CDCl3) 6.56 (s, 1H), 3.30-3.42 (m, 4H), 2.38 (s, 3H), 1.49-1.59 (m, 2H), 1.23-1.35 (m, 2H), 1.15 (t, 3H, J=7.3 Hz), 0.92 (t, 3H, J=7.0 Hz); major: NMR (CDCl3) 6.52 (s, 1H), 3.28 (q, 2H, J=7.0), 3.18 (dd, 2H, J1 =7.3 Hz, J2 =8.1 Hz), 2.44 (s, 3H), 1.49-1.60 (m, 2H), 1.24-1.37 (m, 2H), 1.17 (t, 3H, J=7.3 Hz), 0.94 (t 3H, J=7.3 Hz).

reactant | 2,4-Dichloro-6-methyl-3-nitropyridine | 4.83 mmol, 1 g | ClC1=NC(=CC(=C1[N+](=O)[O-])Cl)C | C6H4Cl2N2O2
reactant | N-ethylbutylamine | 5.55 mmol, 0.75 mL | C(C)NCCCC | C6H15N
reactant | N,N-diisopropylethylamine | 6 mmol, 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 2-Chloro-4-(N-butyl-N-ethylamino)-6-methyl-3-nitropyridine | ClC1=NC(=CC(=C1[N+](=O)[O-])N(CC)CCCC)C | C12H18ClN3O2
